US05635534
5-[4-{2-[2-(3-Trifluoromethylpheny)-2-hydroxyethylamino]propoxy}benzyl]thiazolidine-2,4-dione (Compound No 5-3)
Following a procedure similar to that described in Example 2, but using 5.88 g of 2-amino-1-(3-trifluoromethylphenyl)ethanol (prepared as described in Preparation 42), 8 g of 5-[4-(2-oxopropoxy)benzyl]thiazolidine-2,4-dione (prepared as described in Preparation 2), 200 ml of benzene, 150 ml of absolute methanol and 5.4 g of sodium cyanoborohydride, and then purifying the reaction product by column chromatography through silica gel, using ethyl acetate as the eluent, 4.8 g of the title compound were obtained as crystals, melting at 100°-105° C.

reactant | 2-amino-1-(3-trifluoromethylphenyl)ethanol | 5.88 g | NCC(O)C1=CC(=CC=C1)C(F)(F)F | C9H10F3NO
reactant | 5-[4-(2-oxopropoxy)benzyl]thiazolidine-2,4-dione | 8 g | O=C(COC1=CC=C(CC2C(NC(S2)=O)=O)C=C1)C | C13H13NO4S
reactant | benzene | 200 ml | C1=CC=CC=C1 | C6H6
reactant | sodium cyanoborohydride | 5.4 g | C(#N)[BH3-].[Na+]
solvent | methanol | 150 ml | CO | CH4O
product | 5-[4-{2-[2-(3-Trifluoromethylpheny)-2-hydroxyethylamino]propoxy}benzyl]thiazolidine-2,4-dione | 4.8 g | FC(C=1C=C(C=CC1)C(CNC(COC1=CC=C(CC2C(NC(S2)=O)=O)C=C1)C)O)(F)F | C22H23F3N2O4S
